US06326066B1
A solution of 0.1 mol of p-bromotrifluoromethoxybenzene in 100 ml of THF is added dropwise to a suspension of 0.1 mol of Mg turnings in 50 ml of THF at such a rate that the reaction mixture boils gently. After the mixture has been stirred for one hour, 0.1 mol of trimethyl borate is added dropwise at room temperature, and the mixture is stirred for a further hour and hydrolyzed using dilute hydrochloric acid. After extractive work-up, the resultant boric acid (0.05 mol) is refluxed for two hours together with 0.05 mol of 4-(trans-4-n-pentyl-cyclohexyl)-2,6-difluoroiodobenzene [obtainable by reacting 4-pentylcyclohexanone with 3,5-difluorophenylmagnesium bromide, eliminating water, and hydrogenating the cyclohexylbenzenes on Pd/C. The resultant 3,5-difluoropenyl [sic] compound is metallated at −70° in THF/TMEDA using n-BuLi and subsequently reacted with iodine in THF at −70 °], 38 ml of 2 molar aqueous Na2CO3 solution, 0.6 g of tetrakis(triphenylphosphine)palladium-(0) and 75 ml of toluene. Customary aqueous work-up and chromatographic purification give 4-(trans-4-n-pentylcyclohexyl)-2,6-difluoro-4′-trifluoromethoxybiphenyl.

reactant | p-bromotrifluoromethoxybenzene | 0.1 mol | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | trimethyl borate | 0.1 mol | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
reactant | boric acid | 0.05 mol | B(O)(O)O | BH3O3
reactant | 4-(trans-4-n-pentyl-cyclohexyl)-2,6-difluoroiodobenzene | 0.05 mol | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)I)F | C17H23F2I
reactant | 4-pentylcyclohexanone | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | 3,5-difluorophenylmagnesium bromide | FC=1C=C(C=C(C1)F)[Mg]Br
reactant | n-BuLi | [Li]CCCC
reactant | iodine | II | I2
reactant | Na2CO3 | 2 molar, 38 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF TMEDA | C1CCOC1.CN(C)CCN(C)C
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(trans-4-n-pentylcyclohexyl)-2,6-difluoro-4′-trifluoromethoxybiphenyl | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C1=CC=C(C=C1)OC(F)(F)F)F | C24H27F5O
